US07407961B2
To a solution of pyrazole (106 mg) in NMP (1.0 ml), was added 60% NaH (52 mg) under ice-bath cooling. After 5 minutes stirring, 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (100 mg) was added to the mixture. And then the mixture was heated at 100° C. with stirring for 2 hours. After cooling, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure, and the residue was recrystallized from MeOH and dried in vacuo to give 5-[5-amino-3-phenyl-6-(1H-pyrazol-1-yl)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (60 mg).

reactant | pyrazole | 106 mg | N1N=CC=C1 | C3H4N2
reactant | NaH | 52 mg | [H-].[Na+]
reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 1.0 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 5-[5-amino-3-phenyl-6-(1H-pyrazol-1-yl)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 60 mg | NC=1N=C(C(=NC1N1N=CC=C1)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C21H20N6O
